US05753664
2-[2-[4-(6-Chloronicotinoyl)phenyl]vinyl]-3,5-dimethyl-4(3H)-quinazolinone
To a mixture of 2,3,5-trimethyl-4(3H)-quinazolinone (1.1 g) and 4-(6-chloronicotinoyl)benzaldehyde (1.5 g) was added acetic anhydride (2 ml) and the mixture was stirred at 140° C for 2 hours. This reaction mixture was concentrated and the residue was washed with toluene-diethyl ether and dried to provide 1.4 g of yellow powder.

reactant | 2,3,5-trimethyl-4(3H)-quinazolinone | 1.1 g | CC1=NC2=CC=CC(=C2C(N1C)=O)C | C11H12N2O
reactant | 4-(6-chloronicotinoyl)benzaldehyde | 1.5 g | ClC1=NC=C(C(=O)C2=CC=C(C=O)C=C2)C=C1 | C13H8ClNO2
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[2-[4-(6-Chloronicotinoyl)phenyl]vinyl]-3,5-dimethyl-4(3H)-quinazolinone | 1.4 g | ClC1=NC=C(C(=O)C2=CC=C(C=C2)C=CC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C24H18ClN3O2
